2142-12-03 08:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo woman with atrial fibrillation, C. difficile colitis sp
   ileostomy.  Recent diagnosis of right hilar mass with PET scan showing
   FDG uptake in R acetabulum concerning for metastatic disease.  Admitted
   [**12-2**] with fever to 101.5 and dyspnea with hypoxemia.  CTA chest with
   pulmonary embolus, and CT head without metastatic disease so started on
   heparin drip.
   24 Hour Events:
   Admitted to MICU Green overnight for increasing dyspnea and cough.
   Some mild hemoptysis this morning with blood tinged sputum with
   supra-therapeutic PTT.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Actonel (Oral) (Risedronate Sodium)
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-3**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 83 (68 - 84) bpm
   BP: 101/41(56) {98/34(49) - 131/50(67)} mmHg
   RR: 25 (0 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.4 kg (admission): 96.4 kg
             Total In:
                                                                  3,299 mL
                                                                    796 mL
   PO:
             TF:
   IVF:
                                                                    299 mL
                                                                    796 mL
   Blood products:
   Total out:
                                                                    440 mL
                                                                    475 mL
   Urine:
                                                                    440 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,859 mL
                                                                    321 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : Diffuse) Diffuse
   polyphonic wheezing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): time, place,
   person, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   309 K/uL
   148 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.7 mEq/L
   27 mg/dL
   105 mEq/L
   137 mEq/L
   30.6 %
   22.7 K/uL
        [image002.jpg]
                            [**2142-12-3**]  03:07 AM
   WBC
   22.7
   Hct
   30.6
   Plt
   309
   Cr
   1.5
   Glucose
   148
   Other labs: PT / PTT / INR:13.6//1.2, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.0 mg/dL
   Fluid analysis / Other labs: Lactate 2.5
   No ABGs
   Assessment and Plan
 PNEUMONIA, OTHER: continued on levaquin  daily for planned empiric 7
   day course.  Given history of COPD with frequent exacerbations will
   plan for solumedrol to treat possible COPD exacerbation.
 HYPOTENSION (NOT SHOCK) now resolved for 3L crystalloid resuscitation
   with good urine output.  Awaiting TTE to evaluate for RV function.
 CANCER (MALIGNANT NEOPLASM), LUNG: Plan for diagnostic bronchoscopy
   today.
 PULMONARY EMBOLISM (PE), ACUTE: heparin drip stopped at 3AM for
   planned bronchoscopy with biopsy with IP and thoracics.  Awaiting stat
   LENI for possible IVC filter if hemoptysis post bronchoscopy becomes a
   major issue.
ATRIAL FIBRILLATION: on amiodarone as outpatient.  Was off coumadin as
   outpatient due to difficulty with absorption in setting of ileostomy.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-12-2**] 08:47 PM
   18 Gauge - [**2142-12-2**] 08:47 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: will need PPI.
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full code but would not want prolonged supportive
   measures.
   Disposition : ICU for now, will need monitoring of hemoptysis post
   bronchoscopy.
   Total time spent:  45 min

2142-12-04 07:14:00 Physician Attending Progress Note
Chief Complaint: 86 yo woman with atrial fibrillation, C. difficile
   colitis sp ileostomy.  Recent diagnosis of right hilar mass with PET
   scan showing FDG uptake in R acetabulum concerning for metastatic
   disease, awaiting biopsy.  Admitted [**12-2**] with fever to 101.5 and
   dyspnea with hypoxemia,CTA chest with left segmental pulmonary embolus
   and likely post-obstructive pneumonia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 LENI with RLE DVT, received IVC filter
 TTE notable for EF 64% with normal LV function.  Nl RV size and
   function, indeterminate PASP due to insufficient TR
bronchoscopy in OR today with endobronchial lesion noted in RUL
   bronchus, with frozen section consistent with small cell lung cancer.
   Also had combined intrinsic and extrinsic compression of bronchus
   intermedius with uncovered stent placement
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Actonel (Oral) (Risedronate Sodium)
   Shortness of br
   Last dose of Antibiotics:
   Levofloxacin q48hr
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2142-12-3**] 06:00 PM
   Pantoprazole (Protonix) - [**2142-12-3**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2142-12-3**] 08:00 PM
   Heparin Sodium - [**2142-12-3**] 10:30 PM
   Solumedrol
   Amiodarone
   Mucomyst x 4 doses
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-4**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 94 (70 - 94) bpm
   BP: 106/73(82) {94/35(51) - 126/73(82)} mmHg
   RR: 21 (11 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.4 kg (admission): 96.4 kg
             Total In:
                                                                  1,955 mL
                                                                    100 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
                                                                  1,515 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    285 mL
   Urine:
                                                                    870 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    885 mL
                                                                   -185 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   Alert and oriented
   Decreased wheezing R
   RRR
   +BS, soft
   No LE edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   304 K/uL
   149 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.5 mEq/L
   25 mg/dL
   108 mEq/L
   140 mEq/L
   30.0 %
   19.9 K/uL
        [image002.jpg]
                            [**2142-12-3**]  03:07 AM
                            [**2142-12-3**]  05:22 PM
                            [**2142-12-4**]  04:39 AM
   WBC
   22.7
   19.9
   Hct
   30.6
   31.0
   30.0
   Plt
   309
   304
   Cr
   1.5
   1.5
   Glucose
   148
   149
   Other labs: PT / PTT / INR:11.6/30.2/1.0, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER: continued on levaquin  daily for planned empiric 7
   day course for likely post-obstructive pneumonia.  Persistent
   leukocytosis may be related to high dose steroid use.  Given history of
   COPD with frequent exacerbations will decrease solumedrol to 40mg daily
   for 4 more days without taper
 HYPOTENSION (NOT SHOCK) now resolved for 3L crystalloid resuscitation
   with good urine output.  TTE without significant RV dysfunction.
 CANCER (MALIGNANT NEOPLASM), LUNG:
   -diagnostic bronchoscopy with frozen section consistent with small cell
   lung cancer.  Will ask oncology and radiation oncology to consult
   regardining initiation of therapy
   -O2 requirement decreased after stent placement
 PULMONARY EMBOLISM (PE), ACUTE: IVC filter placed given history of
   hemoptysis.  Depending on results of bronchoscopy may resume
   therapeutic anticoagulation after bronchoscopy.
ATRIAL FIBRILLATION: on amiodarone as outpatient.  Was off coumadin as
   outpatient due to difficulty with absorption in setting of ileostomy,
   given PE in setting of malignancy a LMWH would be ideal for
   anticoagulation
   ICU Care
   Nutrition: npo, can resume diet once more awake
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2142-12-2**] 08:47 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Continue to monitor in ICU today
   Total time spent:

2142-12-04 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 86 year old female w/ a history of AF, RA, being
   worked up for likely metastatic lung cancer who presents with worsening
   hypoxia, fever, and cough, found to have a PE and potential
   post-obstructive pneumonia.
   24 Hour Events:
 ULTRASOUND - At [**2142-12-3**] 09:30 AM
   BLE
 TRANSTHORACIC ECHO - At [**2142-12-3**] 10:15 AM
   -- LENI + for RLE dvt
   -- IVC filter placed by IR
   -- Started mucomyst with fluids
   -- Plan for Bronch with biopsy tommorow. NPO MN and Drips off at MN.
   -- TTE - Normal EF. RV side and wall motion normal. Trivial pericardial
   effusion. No vavlvular problems.
   -- Continued stress dose steroids since Bronch did not take place.
   Allergies:
   Penicillins
   Hives;
   Benadryl (Oral) (P-Ephed Hcl/Dp-Hydram Hcl)
   Hives;
   Actonel (Oral) (Risedronate Sodium)
   Shortness of br
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2142-12-3**] 06:00 PM
   Pantoprazole (Protonix) - [**2142-12-3**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2142-12-3**] 08:00 PM
   Heparin Sodium - [**2142-12-3**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-12-4**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 94 (70 - 94) bpm
   BP: 106/73(82) {94/35(51) - 126/73(82)} mmHg
   RR: 21 (11 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.4 kg (admission): 96.4 kg
             Total In:
                                                                  1,955 mL
                                                                    104 mL
   PO:
                                                                    440 mL
             TF:
   IVF:
                                                                  1,515 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    285 mL
   Urine:
                                                                    870 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    885 mL
                                                                   -181 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   304 K/uL
   9.6 g/dL
   149 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.5 mEq/L
   25 mg/dL
   108 mEq/L
   140 mEq/L
   30.0 %
   19.9 K/uL
        [image002.jpg]
                            [**2142-12-3**]  03:07 AM
                            [**2142-12-3**]  05:22 PM
                            [**2142-12-4**]  04:39 AM
   WBC
   22.7
   19.9
   Hct
   30.6
   31.0
   30.0
   Plt
   309
   304
   Cr
   1.5
   1.5
   Glucose
   148
   149
   Other labs: PT / PTT / INR:11.6/30.2/1.0, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   86 year old female w/ a history of AF, RA, being worked up for likely
   metastatic lung cancer who presents with worsening hypoxia, fever, and
   cough, found to have a PE and potential post-obstructive pneumonia.
   #: Pulmonary Embolism: Patient with PE on CTA after presenting with
   hypoxia.  Patient at increased risk in the setting of likely
   malignancy.
   -- continue on heparin overnight
   -- with data suggesting improved outcomes with lovenox in patients with
   malignancy, will switch over to lovenox when feasible.  Would like to
   make sure no evidence of hemoptysis as well as clarify plan for bronch
   first.
   -- LENIs to see if has LE DVTs in case develops contraindication to
   anticoagulation or TTE shows limited reserve for new PE
   -- TTE to evaluate for worsened rv function
   # Pneumonia: While patinet's fevers, leukocytosis, and hypoxia could
   certianly be attributed to patient's PE, CT demonstration of likely
   post-obstructive pneumonia is consistent many other systemic symptoms
   also experiencing.  Likely has component of COPD with diffuse wheezes
   throughout all lung fields
   -- send sputum culture
   -- continue levofoxacin renally dosed.
   -- f/u blood culture
   -- atrovent and albuterol nebs
   -- cont 80mg IV solumdedrol Iv q8 in the setting of planned bronch with
   taper on prednisone following.
   # Hypotension: Differential could include volume depletion vs.
   infection w/ sepsis vs. hemodynamic instability secondary to PE vs.
   adrenal insufficiency.  Patient without distended neck veins on exam.
   No gross evidence of marked septic shock, and as pressures have
   stabilized after 2L of NS 3 hours ago, would favor volume depletion.
   Patinet has only been on prednisone for the last 7 days, so feel
   adrenal insufficiency would be less likely.
   -- 3 larbe bore IVs
   -- 1L of NS over night
   -- continue to monitor
   -- f/u blood, sputum, and urine culture
   # Lung mass: Concerning features for metastatic lung CA.  Has plan for
   bronch tomorrow.  Likely will be postponed in the setting of high O2
   requirment.
   -- d/w throacis plan for bronch in setting of O2 requirment and
   heparin.
   # PAF:  Currently in sinus, managed on amioderone and metoprolol.  Not
   anticoagulated as difficulty with coumadin absorption with illeostomy.
   Will decrease ASA to 81mg while on heparin/lovenox, but holding in plan
   for bx.
   # Hypertension:  Managed with lisinopril, lasix, HCTZ, and metoprolol.
   -- hold to see where BP settles in setting of recent hypotension.
   # Hypothyroidism: cont home synthroid.
   # Gout: Cont colchicine
   # RA: No active disease, although has been on one week of predinsone.
   Will continue prednisone 20mg, with plan for taper per rheumatologist.
   - cont tramadol.
   - cont prednisone at higher dose.
   # Tremor: cont primidone.
   # FEN: IVFs / replete lytes prn / regular diet NPO for bronch
   # PPX: heparin gtt
   # ACCESS: PIV x 3
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-12-2**] 08:47 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: